US05393755
6-Amino-3-methyl-5-(phenylmethylamino)pyrimidine-2,4-dione
Add 6-amino-3-methyl-5-(phenylmethyleneamino )pyrimidine-2,4-dione (85 g=0.35 mol) to CH2Cl2 (1.6L) and MeOH (1.6L). Stir the suspension, add HOAc (21.9 ml=0.35 mol), then NaCNBH3 (21.9 g=0.35 mol). Stir 1.5 hr, and add HOAc (2 ml) and NaCNBH3 (2.0 g). After another 30 min, concentrate to ca. 1.6L on a rotovap (35° C. bath). Chill the crystalline mixture, filter, and wash with cold MeOH. Stir the product 15 min in 0.5L boiling MeOH, chill, filter, and dry to obtain the title compound, m.p. 206°-218° C.

reactant | 6-amino-3-methyl-5-(phenylmethyleneamino )pyrimidine-2,4-dione | 0.35 mol, 85 g | NC1=C(C(N(C(N1)=O)C)=O)N=CC1=CC=CC=C1 | C12H12N4O2
reactant | CH2Cl2 | 1.6L | C(Cl)Cl | CH2Cl2
reactant | NaCNBH3 | 0.35 mol, 21.9 g | [BH3-]C#N.[Na+]
reactant | NaCNBH3 | 2.0 g | [BH3-]C#N.[Na+]
solvent | HOAc | 2 ml | CC(=O)O | C2H4O2
solvent | MeOH | 1.6L | CO | CH4O
solvent | HOAc | 0.35 mol, 21.9 ml | CC(=O)O | C2H4O2
product | 6-Amino-3-methyl-5-(phenylmethylamino)pyrimidine-2,4-dione | NC1=C(C(N(C(N1)=O)C)=O)NCC1=CC=CC=C1 | C12H14N4O2
